US08217032B2
7,9-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol
Dissolve 5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,3,5-trifluoro-phenyl)-naphthalen-2-ol (4.3 g, 3.0 mmol) in dry THF (85 mL). Add KOtBu (2.4 g, 21.3 mmol) and stir at room temperature for 3 hours. Pour into saturated aqueous ammonium chloride and extract twice with methylene chloride. Dry the organic layer with sodium sulfate, filter and concentrate in vacuo to yield 3.7 g (90%) of the title compound: mass spectrum (ion spray) m/z=488.2 (M+H). The mixture is purified by chiral chromatography (conditions P). The two isomers eluted with retention times of 6.9 and 8.6 minutes.

reactant | 5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,3,5-trifluoro-phenyl)-naphthalen-2-ol | 3.0 mmol, 4.3 g | OC(C1=C2C=CC(=CC2=CC=C1C1=C(C(=CC(=C1)F)F)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H28F3NO3
reactant | KOtBu | 21.3 mmol, 2.4 g | CC(C)(C)[O-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 85 mL | C1CCOC1 | C4H8O
product | 7,9-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol | 3.7 g, 90% | FC1=C2OC(C3=C4C=CC(=CC4=CC=C3C2=CC(=C1)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
